US08357693B2
6-(2-(dimethylamino)ethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxyquinazolin-4-amine
To an ice-cold solution of 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.26 g, 0.55 mmol) in DMSO (3 mL) was bubbled dimethylamine for 3-4 minutes. The mixture was heated at 85° C. for 2 h. The mixture was allowed to cool to RT, upon which it was poured into water (100 mL). The solid that formed was collected via filtration and purified by preparative TLC (SiO2, CH2Cl2:MeOH 9:1) to give the desired compound.

reactant | 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.55 mmol, 0.26 g | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)NC=1C=C2C=NN(C2=CC1)C(=O)[O-]
reactant | dimethylamine | CNC | C2H7N
reactant | water | 100 mL | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 6-(2-(dimethylamino)ethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxyquinazolin-4-amine | CN(CCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)NC=1C=C2C=NNC2=CC1)C | C32H29FN6O2
